US07544697B2
The method described in Part F of Examples 1 through 4 was used to treat 1-butyl-5-(2-hydroxy-2-methylpropyl)-1H-pyrazole-3-carbonitrile (18 g, 81 mmol) with potassium acetate (16.7 g, 171 mmol) and bromine (4.6 mL, 89 mmol). After the acetic acid was removed under reduced pressure, the residue was diluted with dichloromethane (100 mL) and adjusted to pH 12 with the addition of 50% w/w aqueous sodium hydroxide and ice while maintaining the temperature at 0° C. The resulting mixture was extracted with dichloromethane, and the combined extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by chromatography on a HORIZON HPFC system (60I cartridge, eluting with 0 to 50% ethyl acetate in hexanes to provide 13 g of 1-butyl4-bromo-5-(2-hydroxy-2-methylpropyl)-1H-pyrazole-3-carbonitrile as a yellow oil.

reactant | 1-butyl-5-(2-hydroxy-2-methylpropyl)-1H-pyrazole-3-carbonitrile | 81 mmol, 18 g | C(CCC)N1N=C(C=C1CC(C)(C)O)C#N | C12H19N3O
reactant | potassium acetate | 171 mmol, 16.7 g | C(C)(=O)[O-].[K+]
reactant | bromine | 89 mmol, 4.6 mL | BrBr | Br2
product | 1-butyl4-bromo-5-(2-hydroxy-2-methylpropyl)-1H-pyrazole-3-carbonitrile | 13 g | C(CCC)N1N=C(C(=C1CC(C)(C)O)Br)C#N | C12H18BrN3O
